US08703810B2
Step 2: 1-(Chloromethyl)-2-fluoro-3-methoxybenzene
To a solution of (2-fluoro-3-methoxyphenyl)methanol (13 g, 83.2 mmol) in CCl4 (75 mL), PClS (26 g, 128.7 mmol) was added. The resulting mixture was heated at 90° C. for 30 min and then stirred at room temperature for 1 h. The mixture was poured into water (160 mL) and extracted with dichloromethane (2×150 mL). The combined organic layers were washed with brine (200 mL), dried (Na2SO4), and concentrated in vacuo. The residue was purified by silica gel column chromatography (1:15 EtOAc/petroleum ether) to give the title compound (11.5 g). 1H NMR (CDCl3): δ 7.10-6.91 (m, 3H), 4.63 (s, 2H), 3.89 (s, 3H).

reactant | (2-fluoro-3-methoxyphenyl)methanol | 83.2 mmol, 13 g | FC1=C(C=CC=C1OC)CO | C8H9FO2
reactant | water | 160 mL | O | H2O
reactant | CCl4 | 75 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(Chloromethyl)-2-fluoro-3-methoxybenzene | 11.5 g | ClCC1=C(C(=CC=C1)OC)F | C8H8ClFO
